US20010041803A1
Baccatin III
Butyllithium (67 ul, 2.0M) was added to a solution of 13-Acetylbaccatin III (67.6 mg, 0.1076 mmol) in 3 ml of dichloromethane at −40° C. The reaction mixture was stirred at 40° C. for 1 hour. Cold water was added and the mixture extracted with dichloromethane. The combined organic extract was washed with water, dried (MgSO4 anhydrous), and concentrated to a residue. 1H-NMR(CDCl3) δ 8.12 (t, J=7.05 Hz, ortho-H), 7.64 (m, 1H, para-H), 7.56 (m, 2H, meta-H), 5.66 (s, H-10), 5.60 (d, J=7.27 Hz, H-2), 5.36 (br d, 1.99 Hz), 4.96 (m, H-7), 4.92 (m, H-7), 4.56 (d, J=4.84 Hz C20-Hα), 4.56 (m, C20-Hβ), 3.5 (d, J=7.0 Hz, H-3), 2.56 (ddd, J=14.0,9.6,2.2 Hz, 1H, H-6), 2.3 (m, 1H, H-14), 2.27 (s, 3H, C-4-COCH3), 1.85 (ddd, J=14.4,10.01,2.3 Hz 1H, H-6), 2.08 (s, 3H, C-18), 1.9 (s, 3H, C-10-OCH3), 1.8 (s, 3H, H-19), 1.08 (s, 6H, H-16, H-17).

reactant | Butyllithium | 2.0M, 67 ul | C(CCC)[Li]
reactant | 13-Acetylbaccatin III | 0.1076 mmol, 67.6 mg | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)C)O)OC(=O)C5=CC=CC=C5)(CO4)OC(=O)C)O)C)OC(=O)C | C33H40O12
reactant | water | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | Baccatin III | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)OC(=O)C | C31H38O11
